US03966773
Preparation of 2-(6-carbethoxy-5,5-dimethylhexyl)cyclopentan-1-one
Esterification of 2-(6-carboxy-5,5-dimethylhexyl)cyclopentan-1-one with ethanol by the procedure described in Example 3 is productive of the subject compound.

reactant | 2-(6-carboxy-5,5-dimethylhexyl)cyclopentan-1-one | C(=O)(O)CC(CCCCC1C(CCC1)=O)(C)C | C14H24O3
reactant | ethanol | C(C)O | C2H6O
product | 2-(6-carbethoxy-5,5-dimethylhexyl)cyclopentan-1-one | C(=O)(OCC)CC(CCCCC1C(CCC1)=O)(C)C | C16H28O3
